US09029536B2
B) 4-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol
A mixture of 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine (904 mg), (4-hydroxyphenyl)boronic acid (690 mg), Pd(PPh3)4 (139 mg), Na2CO3 (1.48 g), DME (17.5 mL), and H2O (3.5 mL) was refluxed overnight under Ar atmosphere. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue purified by basic silica gel column chromatography (AcOEt) and crystallized from hexane/AcOEt to give the title compound (353 mg).

reactant | 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 904 mg | BrC1=NN(C=2C1=NC=CC2)CC | C8H8BrN3
reactant | (4-hydroxyphenyl)boronic acid | 690 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | Na2CO3 | 1.48 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 17.5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 139 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | H2O | 3.5 mL | O | H2O
product | 4-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol | 353 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)O | C14H13N3O
